US07423159B2
A mixture of 5,6-dimethyl-1H-benzimidazole (5.0 g), 4-nitrobenzyl bromide (6.16 g), potassium carbonate (7.88 g) and N,N-dimethylformamide (60 ml) was stirred at 60° C. for 14 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to give 5,6-dimethyl-1-(4-nitrobenzyl)-1H-benzimidazole (2.6 g, 32%) as crystals from a fraction eluted with methanol-ethyl acetate (1:20, v/v). Recrystallization thereof from ethyl acetate-hexane gave pale-red prism crystals. melting point: 175-177° C.

reactant | 5,6-dimethyl-1H-benzimidazole | 5.0 g | CC1=CC2=C(NC=N2)C=C1C | C9H10N2
reactant | 4-nitrobenzyl bromide | 6.16 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 7.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,6-dimethyl-1-(4-nitrobenzyl)-1H-benzimidazole | 2.6 g, 32% | CC1=CC2=C(N(C=N2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1C | C16H15N3O2
